US05106861
Step F: (±)-(2R,3R)-3-Amino-1,1-difluoro-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride
A suspension of (±)-(3aR,9aR)-9,9-difluoro-3a,4,9,9a-tetrahydro-2-phenyl-naphth[2,3-d]oxazole (50 mg) in 2.5 N aqueous hydrochloric acid was refluxed overnight. The mixture was concentrated in vacuo and the residue was crystallized from water. Benzoic acid was filtered and the filtrate was concentrated to afford the crude product which was recrystallized from methanol/ethyl acetate affording the title compound (35 mg).

reactant | (±)-(3aR,9aR)-9,9-difluoro-3a,4,9,9a-tetrahydro-2-phenyl-naphth[2,3-d]oxazole | 50 mg | FC1(C=2C=CC=CC2C[C@H]2N=C(O[C@H]21)C2=CC=CC=C2)F | C17H13F2NO
reactant | hydrochloric acid | 2.5 N | Cl | ClH
product | (±)-(2R,3R)-3-Amino-1,1-difluoro-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride | Cl.N[C@H]1[C@H](C(C2=CC=CC=C2C1)(F)F)O | InChI=1S/C10H11F2NO.ClH/c11-10(12)7-4-2-1-3-6(7)5-8(13)9(10)14;/h1-4,8-9,14H,5,13H2;1H/t8-,9-;/m1./s1
